US07459448B2
9-Chloro-2-(4-methoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-14)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and 1-(4-methoxyphenyl)guanidine were converted to I-14 (39%): HRMS Calcd. for C19H15ClN4O2: 367.0960, Found 367.0975.

reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | 1-(4-methoxyphenyl)guanidine | COC1=CC=C(C=C1)NC(=N)N | C8H11N3O
product | 9-Chloro-2-(4-methoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC=C(C=C3)OC)=O)C1 | C19H15ClN4O2
